US08614238B2
(1R,3S)-3-Propionylamino-cyclopentanecarboxylic acid
100.0 mg (0.77 mmol) (1R,3S)-3-Aminocyclopentane carboxylic acid is stirred in 2.0 mL THF and 0.77 mL (1.55 mmol) sodium hydroxide solution (2 mol/l). 74.0 μL (0.85 mmol) Propionyl chloride is added drop wise and the mixture is stirred at RT over night. The solvent is evaporated. The mixture is stirred at RT over night. The product is purified by RP-HPLC (water+5-95% acetonitrile (with addition of 0.1% TFA)) and lyophilized.

reactant | (1R,3S)-3-Aminocyclopentane carboxylic acid | 0.77 mmol, 100.0 mg | N[C@@H]1C[C@@H](CC1)C(=O)O | C6H11NO2
reactant | sodium hydroxide | 1.55 mmol, 2 mol/l, 0.77 mL | [OH-].[Na+]
reactant | Propionyl chloride | 0.85 mmol, 74.0 μL | C(CC)(=O)Cl | C3H5ClO
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | (1R,3S)-3-Propionylamino-cyclopentanecarboxylic acid | C(CC)(=O)N[C@@H]1C[C@@H](CC1)C(=O)O | C9H15NO3
